US04897490
Sodium (±)-9,9-bis(4-fluorophenyl)-3-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-5-oxo-6,8-nonadienoate
Phenylmethyl 9,9-bis(4-fluorophenyl)-3-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-5-oxo-6,8-nonadienoate (0.34g, 0.62 mmole) was dissolved in tetrahydrofuran (4mL) and water (1mL). 1N Sodium hydroxide (0.62 mL, 0.62 mmole) was added, and the solution was stirred for 6 hours at 24° C. The mixture was diluted with water (10 mL) and washed with diethyl ether (3×50 mL). The aqueous portion was lyophilized to give 0.17 g (52%) of the title compound; m.p.=166°-180° C. (dec.).

reactant | Phenylmethyl 9,9-bis(4-fluorophenyl)-3-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-5-oxo-6,8-nonadienoate | 0.62 mmole, 0.34g | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OCC1=CC=CC=C1)O)=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C30H26F2N4O4
reactant | Sodium hydroxide | 0.62 mmole, 1N, 0.62 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 4mL | O1CCCC1 | C4H8O
solvent | water | 1mL | O | H2O
solvent | water | 10 mL | O | H2O
product | Sodium (±)-9,9-bis(4-fluorophenyl)-3-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-5-oxo-6,8-nonadienoate | 0.17 g, 52% | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)[O-])O)=O)C1=NN=NN1C)C1=CC=C(C=C1)F.[Na+] | InChI=1S/C23H20F2N4O4.Na/c1-29-23(26-27-28-29)20(11-10-18(30)12-19(31)13-21(32)33)22(14-2-6-16(24)7-3-14)15-4-8-17(25)9-5-15;/h2-11,19,31H,12-13H2,1H3,(H,32,33);/q;+1/p-1
